US05140011
A mixture of 340 mg (0.52 mmol) of benzyl [(2RS,3S, 5S,6S)-6-[(S)-α-amino-4-imidazolepropionamido]-7-cyclohexyl-2,5-dihydroxy-3-isopropylheptyl]-(2-pyridylmethyl)carbamate, 225 mg (0.58 mmol) of Fmoc-Phe-OH, 0.132 ml (1.05 mmol) of 4-ethylmorpholine, 155 mg (1.15 mmol) of HOBT, 121 mg (0.63 mmol) of EDC and 10 ml of dimethylformamide is stirred at room temperature overnight. Thereafter, the reaction mixture is poured into 70 ml of ice-cold 2N sodium bicarbonate solution and extracted three times with 150 ml of ethyl acetate each time. The organic extracts are washed in succession with 70 ml of sodium bicarbonate solution and 70 ml of saturated sodium chloride solution, combined, dried and evaporated. The residue (640 mg) in 30 ml of methylene chloride and 1 ml of piperidine is stirred at room temperature for 2.5 hours. Then, the reaction mixture is evaporated and the residue (500 mg) is chromatographed on 50 mg of silica gel with a 14:1:0.1 mixture of methylene chloride, methanol and ammonia as the eluting agent. Recrystallization of the crude product obtained (320 mg) from methylene chloride/ether/hexane yields 280 mg of benzyl [(2RS,3S,5S,6S)-7-cyclohexyl-2,5-dihydroxy-3-isopropyl-6-[[N-(3-phenyl-L-alanyl)-L-histidyl]amino]heptyl]-(2-pyridylmethyl)carbamate as a white solid, melting point 94°.

reactant | benzyl [(2RS,3S, 5S,6S)-6-[(S)-α-amino-4-imidazolepropionamido]-7-cyclohexyl-2,5-dihydroxy-3-isopropylheptyl]-(2-pyridylmethyl)carbamate | 0.52 mmol, 340 mg | N[C@H](C(=O)N[C@H]([C@H](C[C@H](C(CN(C(OCC1=CC=CC=C1)=O)CC1=NC=CC=C1)O)C(C)C)O)CC1CCCCC1)CC=1N=CNC1 | C36H52N6O5
reactant | Fmoc-Phe-OH | 0.58 mmol, 225 mg | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C24H21NO4
reactant | 4-ethylmorpholine | 1.05 mmol, 0.132 ml | C(C)N1CCOCC1 | C6H13NO
reactant | HOBT | 1.15 mmol, 155 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.63 mmol, 121 mg
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | benzyl [(2RS,3S,5S,6S)-7-cyclohexyl-2,5-dihydroxy-3-isopropyl-6-[[N-(3-phenyl-L-alanyl)-L-histidyl]amino]heptyl]-(2-pyridylmethyl)carbamate | 280 mg | C1(CCCCC1)C[C@@H]([C@H](C[C@H](C(CN(C(OCC1=CC=CC=C1)=O)CC1=NC=CC=C1)O)C(C)C)O)NC([C@@H](NC([C@@H](N)CC1=CC=CC=C1)=O)CC1=CNC=N1)=O | C45H61N7O6
